US04394382
23.05 g of 3,4-dihydro-3,8-dihydroxy-2H-1-benzopyran was dissolved in 320 ml of tetrahydrofuran, and 16.7 g of triethylamine was added. With stirring under cooling, a solution of 17.9 g of ethyl chloroformate in 100 ml of tetrahydrofuran was added dropwise. The mixture was worked up in the same way as in Example 1 to give 33.1 g (yield 100%) of 3,4-dihydro-8-ethoxycarbonyloxy-3-hydroxy-2H-1-benzopyran.

reactant | 3,4-dihydro-3,8-dihydroxy-2H-1-benzopyran | 23.05 g | OC1COC2=C(C1)C=CC=C2O | C9H10O3
reactant | triethylamine | 16.7 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 17.9 g | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 320 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3,4-dihydro-8-ethoxycarbonyloxy-3-hydroxy-2H-1-benzopyran | 33.1 g, yield 100% | C(C)OC(=O)OC1=CC=CC=2CC(COC21)O | C12H14O5
